US07153855B2
In a similar manner as described in Example 46 from 1-[2-(3-bromophenyl)-7-chloropyrazolo[1,5-a]pyridin-3-yl]-2-propyn-1-one (0.45 g, 1.25 mmol), N-cyclopropylguanidine sulfate and sodium ethoxide (0.61 mL, 21 wt % in ethanol, 1.6 mmol) at room temperature was obtained 4-[2-(3-bromophenyl)-7-chloropyrazolo[1,5-a]pyridin-3-yl]-N-cyclopropyl-2-pyrimidinamine (0.21 g, 39%) as a pale yellow solid. 1H NMR (CDCl3): δ 8.57 (d, 1 H), 8.12 (d, 1 H), 7.86 (t, 1 H), 7.57 (m, 2 H), 7.28 (m, 2 H), 7.06 (d, 1 H), 6.37 (d, 1 H), 5.38 (bs, 1 H), 2.84 (m, 1 H), 0.88 (m, 2 H), 0.63 (m, 2 H); MS m/z 440 (M+1).

reactant | 1-[2-(3-bromophenyl)-7-chloropyrazolo[1,5-a]pyridin-3-yl]-2-propyn-1-one | 1.25 mmol, 0.45 g | BrC=1C=C(C=CC1)C1=NN2C(C=CC=C2Cl)=C1C(C#C)=O | C16H8BrClN2O
reactant | N-cyclopropylguanidine sulfate | S(=O)(=O)(O)O.C1(CC1)NC(=N)N
reactant | sodium ethoxide | 1.6 mmol, 0.61 mL | [O-]CC.[Na+]
product | 4-[2-(3-bromophenyl)-7-chloropyrazolo[1,5-a]pyridin-3-yl]-N-cyclopropyl-2-pyrimidinamine | 0.21 g, 39% | BrC=1C=C(C=CC1)C1=NN2C(C=CC=C2Cl)=C1C1=NC(=NC=C1)NC1CC1 | C20H15BrClN5
